US06887889B2
To a solution of 4-iodophenylacetonitrile (10 g, 41.1 mmol) in anhydrous DMSO (20 mL) was added NaNH2 (4.8 g, 123.3 mmol, 3 eq.) in one portion. The temperature of the reaction was maintained at 20° C. using a water bath. The mixture was stirred at 20° C. for 20 min to give a deep red solution then a solution of bis-(2-chloro-ethyl)-methyl-amine.HCl salt (7.92 g, 41.1 mmol, 1 eq.) in anhydrous DMSO (20 mL) was added in a drop-wise fashion. The resulting mixture was stirred at room temperature for 16 h then partitioned between EtOAc (250 mL) and H2O (250 mL). The organic layer was separated and washed with H2O (3×100 mL) and saturated brine (100 mL) then dried over Na2SO4, filtered and concentrated by rotary evaporation. The crude product was purified by flash column chromatography by eluting with 10% MeOH/EtOAc to yield 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carbonitrile as a brownish solid (7.6 g, 23.43 mmol, 57%). 1H NMR (300 MHz, CD3OD): δ 7.89 (d, 2H), 7.43 (d, 2H), 3.13 (d, 2H), 2.58 (td, 2H), 2.50 (s, 3H), 2.24 (m, 4H).

reactant | 4-iodophenylacetonitrile | 41.1 mmol, 10 g | IC1=CC=C(C=C1)CC#N | C8H6IN
reactant | bis-(2-chloro-ethyl)-methyl-amine | ClCCN(C)CCCl | C5H11Cl2N
reactant | HCl | 41.1 mmol, 7.92 g, 1 eq. | Cl | ClH
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 4-(4-iodo-phenyl)-1-methyl-piperidine-4-carbonitrile | 23.43 mmol, 7.6 g, 57% | IC1=CC=C(C=C1)C1(CCN(CC1)C)C#N | C13H15IN2
